US04888337
6-[2-hexadecyl-tetrahydrofuran-5-yloxy]-hexyl pyridinium chloride cis and trans
Analogous to Example 8 but (step a) using dimethylformamide as solvent starting from 2-hexadecyl-2,3-dihydrofuran and 6-chlorohexanol instead of 2-bromoethanol to give the trans and the cis 2-hexadecyl-5-(6'-chloro)-hexyloxy-tetrahydrofuran and (step b) performing the substitution of the chloro atom by pyridine by heating (60°-80° C.) 0.3 g (0.7 mmol) of each chloro compound, pyridine (2 ml) and dimethylformamide (2 ml) overnight with stirring. Evaporation of the excess of pyridine and dimethylformamide leaded to residus which were chromatographed on silica gel using successively 10, 15 and 20% MeOH in CHCl3 as eluents. The title compounds were recovered as waxy solids.

reactant | 2-hexadecyl-2,3-dihydrofuran | C(CCCCCCCCCCCCCCC)C1OC=CC1 | C20H38O
reactant | 6-chlorohexanol | ClCCCCCCO | C6H13ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-[2-hexadecyl-tetrahydrofuran-5-yloxy]-hexyl pyridinium chloride | [Cl-].C(CCCCCCCCCCCCCCC)C1OC(CC1)OCCCCCC[N+]1=CC=CC=C1 | InChI=1S/C31H56NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-18-23-30-24-25-31(34-30)33-29-22-16-15-19-26-32-27-20-17-21-28-32;/h17,20-21,27-28,30-31H,2-16,18-19,22-26,29H2,1H3;1H/q+1;/p-1
